US08809371B2
4M hydrogen chloride/1,4-dioxane (1 ml) was added to an ethyl acetate (2 ml) solution containing tert-butyl(5-(1-methyl-1H-pyrrol-2-yl)pyridin-3-yl)carbamate (80 mg) obtained in the 1st step, followed by stirring at room temperature for 15 hours. An insoluble precipitate was collected by filtration, and a light brown solid of 5-(1-methyl-1H-pyrrol-2-yl)pyridin-3-amine•hydrochloride (42 mg) was thus obtained.

reactant | hydrogen chloride 1,4-dioxane | 4M, 1 ml | Cl.O1CCOCC1
reactant | tert-butyl(5-(1-methyl-1H-pyrrol-2-yl)pyridin-3-yl)carbamate | 80 mg | C(C)(C)(C)OC(NC=1C=NC=C(C1)C=1N(C=CC1)C)=O | C15H19N3O2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 5-(1-methyl-1H-pyrrol-2-yl)pyridin-3-amine•hydrochloride | 42 mg | CN1C(=CC=C1)C=1C=C(C=NC1)N.Cl | InChI=1S/C10H11N3.ClH/c1-13-4-2-3-10(13)8-5-9(11)7-12-6-8;/h2-7H,11H2,1H3;1H
